US08912365B2
A stirred autoclave was charged, at room temperature, with 67 g (728 mmol) of glycerol, 8.2 g (36 mmol) of methyl tridecylate, 0.82 g (10 wt %) of camphosulfonic acid and 0.74 g (1.0 mol %) of Pd/C at 5%. The autoclave was then pressurized at 50 bar of dihydrogen gas H2, and then it was heated at 140° C. for 24 h, stirring vigorously. After 24 h of reaction, the reaction mixture was brought back to room temperature. The catalyst was then filtered on a MILLIPORE® filter (a membrane filter) (0.45 μm) and was rinsed with absolute ethanol. The solvents were then evaporated and the organic products were extracted from the glycerol phase by extraction with CH2Cl2 (3×50 ml). The organic phase was washed with water (2×20 ml) and the CH2Cl2 was then evaporated at reduced pressure. The crude reaction product was analyzed by GC/MS. 1-O-tridecyl-glycerol ether was obtained at 16% GC yield.

reactant | glycerol | 728 mmol, 67 g | OCC(O)CO | C3H8O3
reactant | methyl tridecylate | 36 mmol, 8.2 g | C(CCCCCCCCCCCC)(=O)OC | C14H28O2
catalyst | Pd/C | 0.74 g | [Pd] | Pd
product | 1-O-tridecyl-glycerol ether | C(CCCCCCCCCCCC)OCC(O)CO.CCOCC | InChI=1S/C16H34O3.C4H10O/c1-2-3-4-5-6-7-8-9-10-11-12-13-19-15-16(18)14-17;1-3-5-4-2/h16-18H,2-15H2,1H3;3-4H2,1-2H3
